US08791123B2
Step B: Preparation of (R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole
(3-fluorophenyl)magnesium bromide (203 mL, 102 mmol, 0.5 M in ether) was slowly added via syringe to a solution of (R)-3-(tert-butyldimethylsilyloxy)-4-chlorobutanenitrile (9.50 g, 40.6 mmol) in MTBE (120 mL). The reaction was stirred for two hours and DME (35 mL) was slowly added over 15 minutes followed by EtOH (23 mL). After stirring overnight, brine (50 mL) and 1M NaOH (50 mL) were added and the reaction stirred for 1 hour. The reaction mixture was filtered through a pad of Celite and the collected solids were washed with EtOAc. The filtrate was washed with 1N NaOH and brine, filtered through phase-separator paper and concentrated to provide the title compound that was used directly in the next step. MS (apci) m/z=294.2 (M+H).

reactant | (3-fluorophenyl)magnesium bromide | 102 mmol, 0.5 M, 203 mL | FC=1C=C(C=CC1)[Mg]Br
reactant | (R)-3-(tert-butyldimethylsilyloxy)-4-chlorobutanenitrile | 40.6 mmol, 9.50 g | [Si](C)(C)(C(C)(C)C)O[C@H](CC#N)CCl | C10H20ClNOSi
reactant | DME | 35 mL | COCCOC | C4H10O2
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | MTBE | 120 mL | CC(C)(C)OC | C5H12O
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | EtOH | 23 mL | CCO | C2H6O
product | (R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole | [Si](C)(C)(C(C)(C)C)O[C@H]1CN=C(C1)C1=CC(=CC=C1)F | C16H24FNOSi
